US05958942
ii) 4,5-Dihydro-4[5-(trifluoromethanesulfonamido)pentan-1-yl]-3H-1,4,8b-triazaacenaphthylen-5-one
To a suspension of 2.05 g (6.19 mmol) of 4,5-dihydro-4[5-(amino)pentan-1-yl]-3H-1,4,8b-triazaacenaphthylen-5-one-dihydrochloride and 4.31 ml (30.9 mmol) of triethylamine in 10 ml of methylene chloride-N,N-dimethylformamide was added 4.42 g (12.4 mmol) of N-phenyltrifluoromethanesulfonimide. The mixture was stirred for 4 hour at room temperature. The reaction mixture was washed with water, and dried over anhydrous magnesium sulfate. The solvent was distilled off, and the residue was purified by column chromatography (eluent: ethyl acetate/ethanol=10:1), followed by recrystallization from ethyl acetate to afford 964 mg of the desired compound (39.9%, a pale yellow crystals).

reactant | 4,5-dihydro-4[5-(amino)pentan-1-yl]-3H-1,4,8b-triazaacenaphthylen-5-one-dihydrochloride | 6.19 mmol, 2.05 g | Cl.Cl.NCCCCCN1CC2=CN=C3C=CC=C(C1=O)N32
reactant | triethylamine | 30.9 mmol, 4.31 ml | C(C)N(CC)CC | C6H15N
reactant | N-phenyltrifluoromethanesulfonimide | 12.4 mmol, 4.42 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
solvent | methylene chloride N,N-dimethylformamide | 10 ml | C(Cl)Cl.CN(C=O)C
product | 4,5-Dihydro-4[5-(trifluoromethanesulfonamido)pentan-1-yl]-3H-1,4,8b-triazaacenaphthylen-5-one | 964 mg | FC(S(=O)(=O)NCCCCCN1CC2=CN=C3C=CC=C(C1=O)N32)(F)F | C15H17F3N4O3S
